US04010178
Triethylamine (1.68 ml.) was added to a suspension of L-alanine (0.89 g.) in a mixture of water (5 ml.) and tert-butyl alcohol (5 ml.) to give homogeneous solution. To the solution was added diethyl 2-tert-butoxycarbonyloxyiminomalonate (4.0 g.) and the mixture was stirred for 1 hour at room temperature. tert-Butyl alcohol was distilled off from the reaction mixture under reduced pressure and to the residue were added ether and a 5% sodium bicarbonate aqueous solution, after which the mixture was adjusted to pH 7 with a citric acid aqueous solution. The aqueous layer was separated and ethyl acetate was added thereto, and the mixture was adjusted to pH 3 with a citric acid aqueous solution. The mixture was shaken enough and the ethyl acetate layer was separated, washed with water and dried. The solution was concentrated under reduced pressure and the residue was recrystallized from a mixture of ether and petroleum ether to give N-tert-butoxycarbonyl-L-alanine (1.59 g.), mp 82° to 84° C.

reactant | Triethylamine | 1.68 ml | C(C)N(CC)CC | C6H15N
reactant | L-alanine | 0.89 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | diethyl 2-tert-butoxycarbonyloxyiminomalonate | 4.0 g | C(C)(C)(C)OC(=O)ON=C(C(=O)OCC)C(=O)OCC | C12H19NO7
solvent | water | 5 ml | O | H2O
solvent | tert-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
product | N-tert-butoxycarbonyl-L-alanine | 1.59 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
